US04946961
6-Fluoro-2(3H)-benzothiazolon-5-ylhydrazine (6.60 g) and 4-(2-hydroxyimino-1(6)-cyclohexen-1-yl)morpholine (6.50 g) were dissolved in ethanol (120 ml), a catalytic amount of acetic acid was added thereto, and the resulting mixture was heated under reflux for 5 hours. Water was added thereto, and the reaction mixture was extracted with ethyl acetate. The extract was concentrated, a mixture of cupric sulfate pentahydrate (16.0 g), water (64 g), 15% aqueous pyridine (160 g) and tetrahydrofuran (128 ml) was added thereto, and the resulting mixture was refluxed for 5 hours. After cooling, water and ethyl acetate were added thereto. The organic layer was separated from the aqueous layer, washed with dilute hydrochloric acid, dried and concentrated. The residue was purified by silica gel column chromatography using a mixture of ethyl acetate and hexane (1:9) as an eluent to give 2-[6-fluoro-2(3H)-benzothiazolon-5-yl]-4,5,6,7-tetrahydro-2H-benzotriazole-1-oxide (0.62 g).

reactant | 6-Fluoro-2(3H)-benzothiazolon-5-ylhydrazine | 6.60 g | FC1=CC2=C(NC(S2)=O)C=C1NN | C7H6FN3OS
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Water | O | H2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-[6-fluoro-2(3H)-benzothiazolon-5-yl]-4,5,6,7-tetrahydro-2H-benzotriazole-1-oxide | 0.62 g | FC1=CC2=C(NC(S2)=O)C=C1N1N=C2C(=[N+]1[O-])CCCC2 | C13H11FN4O2S
